US07179819B2
3-[5-(R)-benzyloxymethyl-1-[4-[N′-(2-methylphenyl)ureido]-3-methoxyphenylacetyl]-2-(S)-pyrrolidinylmethoxy]benzoic acid
To a stirred solution of methyl 3-[5-(R)-benzyloxymethyl-1-[4-[N′-(2-methylphenyl) ureido]-3-methoxyphenylacetyl]-2-(S)-pyrrolidinylmethoxy]benzoate (185 mg, 0.28 mmol) in MeOH-THF (2:5, 7 ml) was added 1.0 M-NaOH (860 ml, 0.86 mmol) at rt, and the resulting mixture was heated at 60° C. with stirring for 1 h. The reaction mixture was poured into 1N-HCl, then extracted with CHCl3. The organic layer was washed with brine, drying over anhydrous Na2SO4, then concentrated in vacuo. The residue was chromatographed on silica gel with CHCl3-MeOH (5:1) as eluent to give129 (171 mg, 94%) as a colorless amorphous solid. MW 637.72 1H-NMR (CD3OD), mixture of rotamars δ 1.89–2.37 (series of m, 4 H), 2,29 (s, 3 H), 3.52–4.53 (series of m, 8 H), 3.66 and 3.74 (s, total 3 H), 4.85 (s, 2 H), 6.66–7.98 (series of m, 16 H); MS (ESI) m/z, 638 (M++H), 660 (M++Na+); Anal. Calcd for C37H39N3O7.H2O: C, 67.77; H, 6.30; N, 6.41. Found: C, 67.40; H, 5.95: N, 6.14.

reactant | methyl 3-[5-(R)-benzyloxymethyl-1-[4-[N′-(2-methylphenyl) ureido]-3-methoxyphenylacetyl]-2-(S)-pyrrolidinylmethoxy]benzoate | 0.28 mmol, 185 mg | C(C1=CC=CC=C1)OC[C@H]1CC[C@H](N1C(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)=O)COC=1C=C(C(=O)OC)C=CC1 | C38H41N3O7
reactant | NaOH | 0.86 mmol, 860 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH THF | 7 ml | CO.C1CCOC1
product | 3-[5-(R)-benzyloxymethyl-1-[4-[N′-(2-methylphenyl)ureido]-3-methoxyphenylacetyl]-2-(S)-pyrrolidinylmethoxy]benzoic acid | C(C1=CC=CC=C1)OC[C@H]1CC[C@H](N1C(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)=O)COC=1C=C(C(=O)O)C=CC1 | C37H39N3O7
